US06399597B1
Step 1: 3-Hydroxy-1-allyloxycarbonylpyrrolidine
To a solution of 3-hydroxypyrrolidine (0.35 g, 4.02 mmol) and Et3N (1.16 mL, 8.04 mmol) in CH2Cl2 (20 mL) was added allyl chloroformate (0.47 mL, 4.43 mmol) at 0° C. The mixture was kept at 0° C. for 0.5 hr and more CH2Cl2 was added. It was then washed with 5% NaHCO3, water and brine, dried over Na2SO4 and concentrated to give the product (0.34 g) as a yellow liquid.

reactant | 3-hydroxypyrrolidine | 4.02 mmol, 0.35 g | OC1CNCC1 | C4H9NO
reactant | Et3N | 8.04 mmol, 1.16 mL | CCN(CC)CC | C6H15N
reactant | allyl chloroformate | 4.43 mmol, 0.47 mL | ClC(=O)OCC=C | C4H5ClO2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-1-allyloxycarbonylpyrrolidine | 0.34 g | OC1CN(CC1)C(=O)OCC=C | C8H13NO3
